US05700448
2,2,6,6-Tetramethylbenzo[1,2-d;5,4-d']bis-(1,3)dithiole is lithiated with n-BuLi in diethyl ether and then reacted with dimethyl disulfide to give 4-methylthio-2,2,6,6-Tetramethylbenzo[1,2-d;5,4-d']bis-(1,3)dithiole. This compound can then be reacted with n-butyl glyoxalate (0.5 eq.) in a solvent consisting of a mixture of concentrated sulfuric acid and glacial acetic acid (1:10) (analogously to: G. Werber, Ann. Chim. 49, 1898 (1959)). After work-up, including neutralization and extraction the product is purified by preparative HPLC. The n-butyl bis[8-(methylthio-2,2,6,6-tetramethylbenzo-[1,2-d;5,4-d']bis-(1,3)dithiole] acetate formed can be hydrolyzed with a 10% solution of sodium hydroxide and transferred into other esters, amides, thioesters and anhydrides etc. by standard procedures. If n-butyl bis[8-(methylthio-2,2,6,6-tetramethylbenzo-[1,2-d;5,4-d']bis-(1,3)dithiole] acetate is treated with n-BuLi (3 eq.) in tetrahydrofurane at ambient temperature and exposed to oxygen, the initially formed enolate anion is oxidized to the stable title radical (analogously to P. O'Neill and A. F. Hegarty, J. Org. Chem. 52, 2113 (1987)).

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d;5,4-d']bis-(1,3)dithiole | CC1(SC2=C(S1)C=C1SC(SC1=C2)(C)C)C | C12H14S4
reactant | n-BuLi | [Li]CCCC
reactant | dimethyl disulfide | CSSC | C2H6S2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-methylthio-2,2,6,6-Tetramethylbenzo[1,2-d;5,4-d']bis-(1,3)dithiole | CSC1=C2C(SC(S2)(C)C)=CC=2SC(SC21)(C)C | C13H16S5
